US07612114B2
6-{2-{Ethyl[4-(2-piperidin-1-ylethyl)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-carboxymethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (27 mg) and piperidine (14 mg) according to an analogous synthetic method to Example 715 and purified by LC-MS, the title compound (6.6 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-carboxymethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 27 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C33H39NO5
reactant | piperidine | 14 mg | N1CCCCC1 | C5H11N
product | 6-{2-{Ethyl[4-(2-piperidin-1-ylethyl)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 6.6 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)CCN1CCCCC1 | C33H42N2O2
